US08703810B2
A mixture of (S)-2-aminopropan-1-ol (2.0 mL, 26 mmol), 1,5-diiodopentane (4.7 mL), and sodium carbonate (7.13 g, 67.3 mmol) in i-propanol (200 mL) was heated at reflux overnight. The reaction mixture was concentrated, diluted with ethyl acetate (100 mL) and the insoluble solid was filtered off. The solvent was removed under reduced pressure and the residue was purified on a silica gel column to yield ((S)-2-(piperidin-1-yl)propan-1-ol (2.0 g, 54%) as a clear oil. 1H NMR (CDCl3): δ 3.37 (dd, 1H), 3.30 (t, 1H), 2.78 (m, 1H), 2.62 (m, 2H), 2.33 (m, 2H), 1.40-1.70 (m, 6H), 0.86 (d, 3H).

reactant | (S)-2-aminopropan-1-ol | 26 mmol, 2.0 mL | N[C@H](CO)C | C3H9NO
reactant | 1,5-diiodopentane | 4.7 mL | ICCCCCI | C5H10I2
reactant | sodium carbonate | 67.3 mmol, 7.13 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | i-propanol | 200 mL | C(C)(C)O | C3H8O
product | (S)-2-(piperidin-1-yl)propan-1-ol | 2.0 g, 54% | N1(CCCCC1)[C@H](CO)C | C8H17NO
